US08466282B2
Tert-butyl N-[cyclohexyl(imino)methyl]glycinate
To a solution of cyclohexanecarboximidamide hydrochloride (2.00 g) and tert-butyl glycinate hydrochloride (2.06 g) in DMF (16 ml) was added triethylamine (4.30 ml) at room temperature, and the mixture was stirred at 60° C. for 3 hr. The reaction mixture was cooled to room temperature, diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (0.84 g).

reactant | cyclohexanecarboximidamide hydrochloride | 2.00 g | Cl.C1(CCCCC1)C(N)=N
reactant | tert-butyl glycinate hydrochloride | 2.06 g | Cl.NCC(=O)OC(C)(C)C
reactant | triethylamine | 4.30 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Tert-butyl N-[cyclohexyl(imino)methyl]glycinate | 0.84 g | C1(CCCCC1)C(NCC(=O)OC(C)(C)C)=N | C13H24N2O2
